US09233979B2
(R)-1-(1-phenylethyl)-3-(3-((pyridin-3-ylmethyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea (0.056 mmol) was taken up in TFA (1 ml) and the reaction mixture was stirred at room temperature for 1 h. Triethylsilane (0.009 ml, 0.056 mmol) was added drop wise, and the reaction mixture stirred for an additional 5 minutes. The mixture was concentrated, re-dissolved in DMSO (1.5 mL) and submitted for purification by mass-triggered preparative HPLC to afford (R)-1-(1-phenylethyl)-3-(3-((pyridin-3-ylmethyl)amino)-1H-pyrazolo[4,3-c]pyridin-6-yl)urea. TFA (16.7 mg, 0.033 mmol, 59.5% yield) as a white solid. MS ESI calc'd. For C21H22N2O [M+H]+ 388. found 388. 1H NMR (ppm, 600 MHz, DMSO): δ 8.81 (s, 1H); 8.70 (s, 1H); 8.58 (d, J=5.0 Hz, 1H); 8.09 (s, 1H); 7.96 (s, 1H); 7.62 (s, 1H); 7.31-7.32 (m, 4H); 7.21 (t, J=6.6 Hz, 1H); 7.05 (s, 1H); 4.84 (t, J=7.2 Hz, 1H); 4.52 (s, 2H); 1.40 (d, J=7.0 Hz, 3H).

reactant | (R)-1-(1-phenylethyl)-3-(3-((pyridin-3-ylmethyl)amino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | 0.056 mmol | C1(=CC=CC=C1)[C@@H](C)NC(=O)NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NCC=2C=NC=CC2 | C40H35N7O
reactant | Triethylsilane | 0.056 mmol, 0.009 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-1-(1-phenylethyl)-3-(3-((pyridin-3-ylmethyl)amino)-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | C1(=CC=CC=C1)[C@@H](C)NC(=O)NC1=CC2=C(C=N1)C(=NN2)NCC=2C=NC=CC2 | C21H21N7O
